US04341718
α-Hydroxy-β-Phenoxy-N-(1-Methylethyl)-3-Chlorobenzenepropanamide
This compound was prepared from N-(1-methylethyl)-3-(3-chlorophenyl)-2-oxiranecarboxamide (7.2 g.), phenol (3.0 g.), sodium hydride (50% oil dispersion, 1.6 g.), 18-crown-6 (0.9 g.) and acetonitrile (250 ml.) as described in Example 12. The crude product was recrystallized from ether. The compound melted at 160°-162°, and weighed 1.7 g.

reactant | N-(1-methylethyl)-3-(3-chlorophenyl)-2-oxiranecarboxamide | 7.2 g | CC(C)NC(=O)C1OC1C1=CC(=CC=C1)Cl | C12H14ClNO2
reactant | phenol | 3.0 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydride | 1.6 g | [H-].[Na+]
reactant | 18-crown-6 | 0.9 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | α-Hydroxy-β-Phenoxy-N-(1-Methylethyl)-3-Chlorobenzenepropanamide | OC(C(=O)NC(C)C)C(C1=CC(=CC=C1)Cl)OC1=CC=CC=C1 | C18H20ClNO3
